US07560551B2
1,4-Dichlorophthalazine (1.40 g, 7.03 mmol), 4-methylthiophen-2-ylboronic acid (999 mg, 7.03 mmol), and PdCI2(DPPF)(721 mg, 985 μmol) were added into a sealed tube. The tube was purged with Argon. Then sodium carbonate (2.0 M in water)(7.74 ml, 15.5 mmol) and 1,4-dioxane (35.2 ml, 7.03 mmol) were added. The tube was sealed, stirred at rt for 5 min, and placed in a preheated oil bath at 110° C. After 1 h, LC-MS showed product and byproduct (double coupling), and SM dichlorophthalazine. The reaction was cooled to rt, filtered through a pad of celite with an aid of EtOAc, concentrated, and loaded onto column. The product was purified by column chromatography using Hex to remove the top spot, then 80:20 Hex:EtOAc to collect the product. The product, 1-chloro-4-(4-methylthiophen-2-yl)phthalazine was obtained as yellow solid. LC-MS showed that the product was contaminated with a small amount of SM dichlorophthalazine and biscoupling byproduct. MS m/z=261 [M+1]+. Calcd for C13H9ClN2S: 260.12.

reactant | 1,4-Dichlorophthalazine | 7.03 mmol, 1.40 g | ClC1=NN=C(C2=CC=CC=C12)Cl | C8H4Cl2N2
reactant | 4-methylthiophen-2-ylboronic acid | 7.03 mmol, 999 mg | CC=1C=C(SC1)B(O)O | C5H7BO2S
reactant | sodium carbonate | 15.5 mmol, 2.0 M, 7.74 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxane | 7.03 mmol, 35.2 ml | O1CCOCC1 | C4H8O2
product | 1-chloro-4-(4-methylthiophen-2-yl)phthalazine | ClC1=NN=C(C2=CC=CC=C12)C=1SC=C(C1)C | C13H9ClN2S
